US05925662
7.7. 2-Cyanoethyl-6-amino-3,4-dihydro-2H-1-benzopyran
A solution of 4.3 g (18.5 mmol) of 2-cyanoethyl-6-nitro-3,4-dihydro-2H-1-benzopyran in 80 ml of tetrahydrofuran is hydrogenated in the presence of 1 g of palladium on 5% barium sulfate. The mixture is stirred for 2 days, then it is filtered and the filtrate is concentrated under reduced pressure. By chromatography of the residue on a silica column using cyclohexane containing 30% ethyl acetate, 2.5 g of product are obtained.

reactant | 2-cyanoethyl-6-nitro-3,4-dihydro-2H-1-benzopyran | 18.5 mmol, 4.3 g | C(#N)CCC1OC2=C(CC1)C=C(C=C2)[N+](=O)[O-] | C12H12N2O3
reactant | barium sulfate | S(=O)(=O)([O-])[O-].[Ba+2]
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
catalyst | palladium | 1 g | [Pd] | Pd
product | 2-Cyanoethyl-6-amino-3,4-dihydro-2H-1-benzopyran | C(#N)CCC1OC2=C(CC1)C=C(C=C2)N | C12H14N2O
